US05026893
Under a strong nitrogen flow, into a 2 L three-neck round bottom flask equipped with rubber septum, reflux condenser, nitrogen bypass inlet, and magnetic stirring bar were introduced freshly distilled tetrahydrofuran (350 Ml) and n-dodecylmagnesium bromide (800 Ml, 1.0M in diethyl ether, 800 mmol). In an inert atmosphere enclosure, into a 500 Ml addition funnel was added n-octyl-tris-[3-(trichlorosilyl)propyl]silane (30.0 g, 44.7 mmol, prepared by the procedure described in Example 1, Step (b)). The addition funnel was attached to the flask containing n-dodecylmagnesium bromide, and n-octyl-tris-[3-(trichlorosilyl)propyl]silane was added to the n-dodecylmagnesium bromide solution over a period of 45 minutes. The reaction was only slightly exothermic. The reaction mixture was heated at reflux temperature for 186 hours, then cooled to room temperature, and an ether solution of methyllithium (50 Ml, 1.5M) was added. The reaction mixture was heated at reflux temperature again for an additional 24 hours. After it was cooled in an ice-water bath, hydrochloric acid (500 Ml, 1.2N) was cautiously added. The reaction mixture separated into two layers on standing. The aqueous layer was extracted with diethyl ether (2×200 Ml). The organic layers were combined, washed once with water (200 Ml), and dried over magnesium sulfate, and the solvent removed under reduced pressure. Purification by silica gel column chromatography yielded 36.8 g (43.6%) of n-octyl-tris-[3-(tridodecylsilyl)propyl]silane. This tetrasilahydrocarbon had a kinematic viscosity of 105 centistokes at 40° C., a kinematic viscosity of 17.5 centistokes at 100° C., and a viscosity index of 183. Onset of volatilization under 0.43 mm Hg pressure, based on the thermogravimetric analysis, was at 285° C.

reactant | n-dodecylmagnesium bromide | 800 mmol, 1.0M | C(CCCCCCCCCCC)[Mg]Br
reactant | n-octyl-tris-[3-(trichlorosilyl)propyl]silane | C(CCCCCCC)[Si](CCC[Si](Cl)(Cl)Cl)(CCC[Si](Cl)(Cl)Cl)CCC[Si](Cl)(Cl)Cl | C17H35Cl9Si4
reactant | methyllithium | 1.5M | C[Li]
reactant | hydrochloric acid | 1.2N | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | n-octyl-tris-[3-(tridodecylsilyl)propyl]silane | 36.8 g, 43.6% | C(CCCCCCC)[Si](CCC[Si](CCCCCCCCCCCC)(CCCCCCCCCCCC)CCCCCCCCCCCC)(CCC[Si](CCCCCCCCCCCC)(CCCCCCCCCCCC)CCCCCCCCCCCC)CCC[Si](CCCCCCCCCCCC)(CCCCCCCCCCCC)CCCCCCCCCCCC | C125H260Si4
